US08497281B2
Step 2: cis-7-acetylamino-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridine-1-carboxylic acid tert-butyl ester
Acetic anhydride (50 μL) is added to a solution of cis-7-amino-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridine-1-carboxylic acid tert-butyl ester (140 mg) and triethylamine (70 μL) in dichloromethane (3 mL) at room temperature. The solution is stirred for 1 h at room temperature and then aqueous NaHCO3 solution is added. The mixture is stirred vigorously for 20 min and then extracted with dichloromethane. The combined extract is concentrated and the residue is chromatographed (cyclohexane/ethyl acetate 1:9) to give the title compound. Yield: 100 mg (62% of theory); LC (method 1): tR=3.60 min.

reactant | Acetic anhydride | 50 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | cis-7-amino-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridine-1-carboxylic acid tert-butyl ester | 140 mg | C(C)(C)(C)OC(=O)N1[C@@H]2[C@H](CCC1)C=1C=CC(=CC1C2)N | C17H24N2O2
reactant | triethylamine | 70 μL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | cis-7-acetylamino-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2[C@H](CCC1)C=1C=CC(=CC1C2)NC(C)=O | C19H26N2O3
